US04670566
7-Chloro-4-phenylindolin-2-one.
A solution of 48.0 g (0.166 mole) of 7-chloro-3-methylthio-4-phenylindolin-2-one was treated with 380 g of a washed commercial preparation of Raney-nickel under vigorous agitation for 5 min. The mixture was filtered and the filtrate was concentrated under reduced pressure to give a pale yellow powder as residue. The residue was triturated with hot absolute ethanol to give 38.1 g (94%) of the title compound as white powder, m.p. 234°-236° C.

reactant | 7-chloro-3-methylthio-4-phenylindolin-2-one | 0.166 mole, 48.0 g | ClC=1C=CC(=C2C(C(NC12)=O)SC)C1=CC=CC=C1 | C15H12ClNOS
catalyst | Raney-nickel | [Ni] | Ni
product | 7-Chloro-4-phenylindolin-2-one | 38.1 g, 94% | ClC=1C=CC(=C2CC(NC12)=O)C1=CC=CC=C1 | C14H10ClNO
